US06054413
4-Chloro-3-(4-chloro-2-fluoro-5-methylphenyl)-5-methyl-1-methylsulfonyl-1H-pyrazole (No. Ie.002)
0.8 g (2.7 mmol) of 3-(4-chloro-2-fluoro-5-methylphenyl)-5-methyl-1-methylsulfonyl-1H-pyrazole and 0.4 g (3.0 mmol) of sulfuryl chloride were reacted in 50 ml of carbon tetrachloride by the method of Example 2. Yield: 0.1 g.

reactant | 3-(4-chloro-2-fluoro-5-methylphenyl)-5-methyl-1-methylsulfonyl-1H-pyrazole | 2.7 mmol, 0.8 g | ClC1=CC(=C(C=C1C)C1=NN(C(=C1)C)S(=O)(=O)C)F | C12H12ClFN2O2S
reactant | sulfuryl chloride | 3.0 mmol, 0.4 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Chloro-3-(4-chloro-2-fluoro-5-methylphenyl)-5-methyl-1-methylsulfonyl-1H-pyrazole | ClC=1C(=NN(C1C)S(=O)(=O)C)C1=C(C=C(C(=C1)C)Cl)F | C12H11Cl2FN2O2S
